US06350892B1
2-[2-[Bis(4-chlorophenyl)methoxy]ethylthio]ethanol
A solution of 2-[bis(4-chlorophenyl)methoxy]ethyl bromide (5.13 g, 14.2 mmol) in N,N-dimethylformamide (50 ml) was treated at 22° C. with powdered anhydrous potassium carbonate (3.0 g, 21.7 mmol) followed by 2-mercaptoethanol (1.25 g, 16.0 mmol). The resulting mixture was stirred at 22° for 18 h. The reaction mixture was then diluted with toluene (400 ml) washed with water, brine and dried over magnesium sulfate. Evaporation of the solvent gave an oil which was chromatographed on silica gel (elution ethyl acetate 0-10% in toluene) to give 4.93 g (96%) of the title material as a clear oil.

reactant | 2-[bis(4-chlorophenyl)methoxy]ethyl bromide | 14.2 mmol, 5.13 g | ClC1=CC=C(C=C1)C(OCCBr)C1=CC=C(C=C1)Cl | C15H13BrCl2O
reactant | potassium carbonate | 21.7 mmol, 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-mercaptoethanol | 16.0 mmol, 1.25 g | SCCO | C2H6OS
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[2-[Bis(4-chlorophenyl)methoxy]ethylthio]ethanol | 4.93 g, 96% | ClC1=CC=C(C=C1)C(OCCSCCO)C1=CC=C(C=C1)Cl | C17H18Cl2O2S
